US06156918
48.6 g (2.0 mol) of magnesium filings and a spatula-tip of iodine are initially introduced into a 2 1 three-necked flask with a precision glass stirrer, straight enclosed-scale thermometer, Dimroth condenser and dropping funnel under a blanket of inert gas. By addition of 600 ml of ethylene glycol dimethyl ether and 203.7 g (2.2 mol) of tert-butyl chloride, tert-butylmagnesium chloride is prepared. Initially 5.2 g (0.02 mol) of copper(II) acetylacetonate and then, at 50° C. over 2 hours, 455.8 g (1.8 mol) of diphenyldichlorosilane are subsequently added dropwise. The internal temperature of the flask rises slightly, and the mixture is subsequently stirred at 70° C. for a further 3 hours to bring the reaction to completion. To remove the precipitated magnesium salt from the solution, the reaction mixture is filtered through a pressure suction filter maintained under an argon atmosphere. The filter cake is rinsed with ethylene glycol dimethyl ether. A concluding fractional distillation of the combined filtrates in vacuo gives 420.6 g of tert-butyldiphenylchlorosilane (85% yield, based on the diphenyldichlorosilane) as a colorless liquid in a GC purity of 92%.

reactant | magnesium | 2.0 mol, 48.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | tert-butyl chloride | 2.2 mol, 203.7 g | C(C)(C)(C)Cl | C4H9Cl
reactant | tert-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | diphenyldichlorosilane | 1.8 mol, 455.8 g | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
catalyst | copper(II) acetylacetonate | 0.02 mol, 5.2 g | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Cu]
solvent | ethylene glycol dimethyl ether | 600 ml | COCCOC | C4H10O2
product | tert-butyldiphenylchlorosilane | 420.6 g, 85% yield | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
